US06107301
A mixture of N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(1-hydroxyethyl)-6-methylpyrimidinamine (1.1 g, 2.7 mmol), triethylamine (1.5 mL, 11 mmol) and dichloromethane (15 mL) was stirred at 0° C. under a nitrogen atmosphere. Methanesulfonylchloride (364 mg, 3.2 mmol) was added dropwise and the reaction mixture was then stirred for 1.5 h. The resulting turbid solution was washed successively with an ice-cold 1N HCl solution, a saturated NaHCO3 solution and a saturated NaCl solution. Drying over MgSO4, filtration and removal of solvent in vacuo gave N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(1-methanesulfonyloxyethyl)-6-methylpyrimidinamine as a clear colorless oil (1.0 g); NMR (CDCl3, 300 MHz): 7.5 (d, 1H, J=1), 7.25-7.1 (m, 2H), 6.55 (s, 1H), 4.3-4.05 (m, 1H), 3.85-3.6 (m, 1H), 3.0-2.5 (m, 4H), 2.5-2.05 (br m, 3H), 1.3 (d, 6H, J=8), 1.2 (t, 3H, J=8); CI-MS: 456, 458 (M+H).

reactant | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(1-hydroxyethyl)-6-methylpyrimidinamine | 2.7 mmol, 1.1 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C(C)O)C)CC | C18H24BrN3O
reactant | triethylamine | 11 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonylchloride | 3.2 mmol, 364 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-(1-methanesulfonyloxyethyl)-6-methylpyrimidinamine | 1.0 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C(C)OS(=O)(=O)C)C)CC | C19H26BrN3O3S
